US06472393B1
Aminoacetonitrile (14.25 g, 92.5 mmoles) was dissolved in 1,2-dichloroethane (150 ml) and the reaction was placed under N2. Triethylamine (32.76 g, 324 mmoles) was added and the reaction was cooled to zero degrees Celsius. A solution of propane-1-sulfonyl chloride (13.19 g, 92.5 mmoles) in 1,2-dichloroethane (20 ml) was added dropwise and the reaction was allowed to warm to room temperature and was stirred for 16 hours. Thin-layer chromatography showed the presence of a new product with a higher Rf. The solvent was removed in vacuo and the crude product was submitted to flash chromatography (methylene chloride:ethyl acetate, 9:1) to yield 10.56 g of propane-1-sulfonic acid cyanomethyl-amide. 1HNMR (CDCl3): 5.40 (s, 1H), 4.11 (s, 2H), 3.15 (m, 2H), 1.89 (q, 2H), 1.10 (t, 3H).

reactant | Aminoacetonitrile | 92.5 mmoles, 14.25 g | NCC#N | C2H4N2
reactant | Triethylamine | 324 mmoles, 32.76 g | C(C)N(CC)CC | C6H15N
reactant | propane-1-sulfonyl chloride | 92.5 mmoles, 13.19 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | propane-1-sulfonic acid cyanomethyl-amide | 10.56 g | C(#N)CNS(=O)(=O)CCC | C5H10N2O2S
